US08859504B2
Alternate synthesis of 4-(R,S)-(carboxymethyl)-2-((R)-1-(2-(2,5-dichlorobenzamido)acetamido)-3-methylbutyl)-6-oxo-1,3,2-dioxaborinane-4-carboxylic acid (I-1) Form 2
A 50-L glass reactor equipped with mechanical stirrer, dropping funnel, temperature indicator, and heating/cooling control unit (under nitrogen) was charged with 1.2 micron filtered EtOAc (18.9 kg) and anhydrous citric acid (0.561 kg, 2.9 mol). The mixture was heated to 71° C. and a solution resulted. N,N′,N″-{boroxin-2,4,6-triyltris[[(1R)-3-methylbutane-1,1-diyl]imino(2-oxoethane-2,1-diyl)]}tris(2,5-dichlorobenzamide) (1.109 kg, 3.1 mol) dissolved in EtOAc (4.0 kg) was clarified using an in-line filter (1.2 micron), and the solution was added to the reaction mixture under stirring (193 rpm) over a period of 20 min while maintaining a temperature of 73° C. to 75° C. The stirring was reduced to 96 rpm and the mixture was cooled as follows: (1) The mixture was kept at 73° C.-75° C. for 25 min; (2) The mixture was stepwise cooled to 40° C. at the rate of approximately 5° C./30 min; (3) The mixture was allowed to cool uncontrolled overnight to ambient temperature with stirring. The product was then isolated by filtration, washed on the filter with 1.2 micron filtered EtOAc (2×1.2 kg), and dried under vacuum at 40-41° C. overnight (22 hours) to give 1.458 kg (92%) of the title compound. 1H NMR (400 MHz, DMSO-d6, δ): 12.13 (s, 2H), 10.69 (s, 1H), 9.11 (t, J=5.6 Hz, 1H), 7.66 (t, J=1.2 Hz, 1H), 7.56 (d, J=1.2 Hz, 2H), 4.27 (bs, 2H), 2.9-2.55 (m, 5H), 1.67 (bs, 1H), 1.4-1.15 (bs, 2H), 0.86 (d, J=6.4 Hz, 614).

reactant | citric acid | 2.9 mol, 0.561 kg | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | N,N′,N″-{boroxin-2,4,6-triyltris[[(1R)-3-methylbutane-1,1-diyl]imino(2-oxoethane-2,1-diyl)]}tris(2,5-dichlorobenzamide) | 3.1 mol, 1.109 kg | O1B(OB(OB1[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O)[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O)[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O | C42H51B3Cl6N6O9
solvent | EtOAc | 4.0 kg | CCOC(=O)C | C4H8O2
solvent | EtOAc | 18.9 kg | CCOC(=O)C | C4H8O2
product | 4-(R,S)-(carboxymethyl)-2-((R)-1-(2-(2,5-dichlorobenzamido)acetamido)-3-methylbutyl)-6-oxo-1,3,2-dioxaborinane-4-carboxylic acid | 1.458 kg, 92% | C(=O)(O)CC1(OB(OC(C1)=O)[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O)C(=O)O | C20H23BCl2N2O9
